US08975443B2
Preparation of N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1 (2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide (Compound (A-1))
Tris(dibenzylideneacetone)dipalladium(0) (0.0026 g, 2.80 μmol), di-tert-butyl(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)phosphine (0.0033 g, 6.72 μmol) and milled potassium phosphate tribasic (0.131 g, 0.616 mmol) were charged to a 40-mL reaction vial inside an inert atmosphere glove box. 2-Methyltetrahydrofuran (1.5 mL) was added, the vial was capped, and the contents were heated to 80° C. and stirred at this temperature for 30 minutes. The reaction mixture was cooled down to room temperature. 6-(3-tert-Butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2-tetrafluoro-2-(perfluoroethoxy)ethanesulfonate (0.4 g, 0.560 mmol, Example 3-7, compound (50), methanesulfonamide (0.064 g, 0.672 mmol) and ethyl acetate (3 mL) were added to the 40-mL reaction vial. The temperature of the closed vial was raised to 90° C. and the contents were magnetically stirred for 16 hours. HPLC analysis of the reaction mixture showed that the product was formed in 97 area % at 210 nm.

reactant | di-tert-butyl(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)phosphine | 6.72 μmol, 0.0033 g | C(C)(C)(C)P(C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C31H49O2P
reactant | potassium phosphate tribasic | 0.616 mmol, 0.131 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-Methyltetrahydrofuran | 1.5 mL | CC1OCCC1 | C5H10O
reactant | 6-(3-tert-Butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2-tetrafluoro-2-(perfluoroethoxy)ethanesulfonate | FC(C(OC(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=C(C(=CC(=C1)N1C(NC(C=C1)=O)=O)C(C)(C)C)OC)F | C29H23F9N2O7S
reactant | methanesulfonamide | 0.672 mmol, 0.064 g | CS(=O)(=O)N | CH5NO2S
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 2.80 μmol, 0.0026 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1 (2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide | C(C)(C)(C)C=1C(=C(C=C(C1)N1C(NC(C=C1)=O)=O)C=1C=C2C=CC(=CC2=CC1)NS(=O)(=O)C)OC | C26H27N3O5S
